US07858640B2
8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-ol
A mixture of 3-amino-4-chlorophenol (0.36 g), 3-(4-methanesulfonylbenzyl)pentane-2,4-dione (0.5 g) and p-toluenesulfonic acid monohydrate (0.05 g) was heated at 160° C. for 2.5 hours. The mixture was cooled to room temperature and purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (50:1 to 2:1 by volume) to afford title compound (7:10 mixture of keto-enol tautomers) as a beige solid, 0.32 g.

reactant | 3-amino-4-chlorophenol | 0.36 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 3-(4-methanesulfonylbenzyl)pentane-2,4-dione | 0.5 g | CS(=O)(=O)C1=CC=C(CC(C(C)=O)C(C)=O)C=C1 | C13H16O4S
reactant | p-toluenesulfonic acid monohydrate | 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-ol | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)O | C19H18ClNO3S
